US07157487B2
Methyl (3-chloro-4-(6-fluoro-2-benzothiazolyl)aminophenyl)acetate (158 mg, 0.45 mmol) was dissolved in THF (3 ml). To the resulting solution was added 0.5N NaOH (3.0 ml, 1.50 mmol), and the resulting mixture was stirred at room temperature for 18 hours. The mixture was poured in ice-1N HCl. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (3-chloro-4-(6-fluoro-2-benzothiazolyl)aminophenyl)acetic acid (127 mg, 84%) as a pale yellow solid.

reactant | Methyl (3-chloro-4-(6-fluoro-2-benzothiazolyl)aminophenyl)acetate | 0.45 mmol, 158 mg | ClC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)CC(=O)OC | C16H12ClFN2O2S
reactant | NaOH | 1.50 mmol, 0.5N, 3.0 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (3-chloro-4-(6-fluoro-2-benzothiazolyl)aminophenyl)acetic acid | 127 mg, 84% | ClC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)CC(=O)O | C15H10ClFN2O2S
